US06369070B1
N-(5-Methylisoxaz-3-oyl)-2-Aminobenzylamine
2-Aminobenzylamine (490 mg, 4.01 mmol) and 5-methyl-3-isoxazoyl chloride (437 mg, 3.01 mmol) were converted to the title compound by the procedure of Preparation 1 to yield 250 mg. (36%). MS(FD) m/z 231 (M+). 1H NMR consistent with desired product.

reactant | 2-Aminobenzylamine | 4.01 mmol, 490 mg | NC1=C(CN)C=CC=C1 | C7H10N2
reactant | 5-methyl-3-isoxazoyl chloride | 3.01 mmol, 437 mg | CC1=CC(=NO1)C(=O)Cl | C5H4ClNO2
product | N-(5-Methylisoxaz-3-oyl)-2-Aminobenzylamine | CC1=CC(=NO1)C(=O)NCC1=C(C=CC=C1)N | C12H13N3O2
